US04624961
5-Bromo-N-(1,2-diethyl-4-pyrazolidinyl)-2,4-dimethoxybenzamide Hemihydrate
A solution of triethylamine (1.52 g, 0.0150 mole) in 5 ml methylene chloride was added to a stirred solution of 5-bromo-2,4-dimethoxybenzoic acid (3.92 g, 0.0150 mole) in 75 ml of methylene chloride. After stirring for 20 minutes at room temperature, the mixture was cooled to 0° C. with an ice water bath. A solution of ethyl chloroformate (1.63 g, 0.0150 mole) in 10 ml methylene chloride was added dropwise to the cold stirred reaction mixture, and the mixture stirred at 0° C. for 30 minutes. Then a solution of 4-amino-1,2-diethylpyrazolidine (2.15 g, 0.0150 mole) in 10 ml of methylene chloride was added dropwise to the cold reaction mixture. The mixture was stirred for 30 minutes at 0° C. and then allowed to warm to room temperature and stirred for 16 hr. The mixture was concentrated to a semi-solid residue which was triturated in 10 ml methanol and 20 ml of a saturated aqueous sodium bicarbonate solution. The mixture was extracted with 2×75 ml portions of methylene chloride, the extract dried (magnesium sulfate) and concentrated to give a solid. The solid was triturated with isopropyl ether and filtered to give 4.28 g (73.9%) of cream-colored solid; recrystallization from isopropyl ether gave 2.04 g of the product; m.p. 113.5°-114.5° C. NMR analysis showed the solid to be a monohydrate, vacuum drying at 54° C. for 16 hrs gave the hemihydrate, m.p. 114°-115° C.

reactant | triethylamine | 0.0150 mole, 1.52 g | C(C)N(CC)CC | C6H15N
reactant | 5-bromo-2,4-dimethoxybenzoic acid | 0.0150 mole, 3.92 g | BrC=1C(=CC(=C(C(=O)O)C1)OC)OC | C9H9BrO4
reactant | ethyl chloroformate | 0.0150 mole, 1.63 g | ClC(=O)OCC | C3H5ClO2
reactant | 4-amino-1,2-diethylpyrazolidine | 0.0150 mole, 2.15 g | NC1CN(N(C1)CC)CC | C7H17N3
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 75 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 5-Bromo-N-(1,2-diethyl-4-pyrazolidinyl)-2,4-dimethoxybenzamide Hemihydrate | 4.28 g, 73.9% | O.BrC=1C(=CC(=C(C(=O)NC2CN(N(C2)CC)CC)C1)OC)OC.BrC=1C(=CC(=C(C(=O)NC2CN(N(C2)CC)CC)C1)OC)OC | InChI=1S/2C16H24BrN3O3.H2O/c2*1-5-19-9-11(10-20(19)6-2)18-16(21)12-7-13(17)15(23-4)8-14(12)22-3;/h2*7-8,11H,5-6,9-10H2,1-4H3,(H,18,21);1H2
